US06329392B1
1-Benzyl-3-[2-[4-[1-(4-fluoro-benzyl)-1H-benzoimidazol-2-yl]-4-hydroxy-piperidin-1-yl]-ethyl]-3-(phenylmethyl)-2-oxo-piperidine
Prepare by the method of Example 6.6.2 using 1-benzyl-3-(phenylmethyl)-3-(2-methanesulfonyl-ethyl)-2-oxo-piperidine and 4-[1-(4-fluoro-benzyl)-1H-benzoimidazol-2-yl]-4-hydroxy-piperidine to give the title compound: Rf=0.66 (silica gel, 10% methanol/ethyl acetate).

reactant | 1-benzyl-3-(phenylmethyl)-3-(2-methanesulfonyl-ethyl)-2-oxo-piperidine | C(C1=CC=CC=C1)N1C(C(CCC1)(CCS(=O)(=O)C)CC1=CC=CC=C1)=O | C22H27NO3S
reactant | 4-[1-(4-fluoro-benzyl)-1H-benzoimidazol-2-yl]-4-hydroxy-piperidine | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)C3(CCNCC3)O)C=C1 | C19H20FN3O
product | 1-Benzyl-3-[2-[4-[1-(4-fluoro-benzyl)-1H-benzoimidazol-2-yl]-4-hydroxy-piperidin-1-yl]-ethyl]-3-(phenylmethyl)-2-oxo-piperidine | C(C1=CC=CC=C1)N1C(C(CCC1)(CC1=CC=CC=C1)CCN1CCC(CC1)(O)C1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)=O | C40H43FN4O2
